US09238640B2
To a solution of 2-amino-4,6-dimethoxy-benzamide (1.3 g, 6.63 mmol) and 4-(3-hydroxypropoxy)-3,5-dimethyl benzaldehyde (1.38 g, 6.63 mmol) in N,N-dimethyl acetamide (10 mL), NaHSO3 (1.30 g, 7.3 mmol), and p-TSA (252 mg, 1.32 mmol) were added and the reaction mixture was heated at 115° C. for 26 hours, then cooled to room temperature. The solvent was removed under reduced pressure. Then, water (100 mL) was added and stirred for 1 hour at room temperature. The separated solids were filtered and dried. The solids were again washed with diethyl ether to give crude product 2-[4-(3-hydroxy-propoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one as an off-white solid. Yield: 1.69 g (66%).

reactant | 2-amino-4,6-dimethoxy-benzamide | 6.63 mmol, 1.3 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-(3-hydroxypropoxy)-3,5-dimethyl benzaldehyde | 6.63 mmol, 1.38 g | OCCCOC1=C(C=C(C=O)C=C1C)C | C12H16O3
reactant | NaHSO3 | 7.3 mmol, 1.30 g | OS(=O)[O-].[Na+]
reactant | p-TSA | 1.32 mmol, 252 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethyl acetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 2-[4-(3-hydroxy-propoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | OCCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C21H24N2O5
